US07550484B2
A solution of (2′R,6′S)-3,3″-dimethyl-1′,2′,3′,4′,5′,6′-hexahydro-[2,2′;6′,2″]terpyridine (306 mg, 1.12 mmol), 5-bromo-pentanoic acid ethyl ester (263 mg, 1.12 mmol), DIPEA (260 μL, 1.49 mmol) and KI (10 mg, 0.060 mmol) in CH3CN (12 mL) was warmed to 60° C. and stirred for 23 h according to General Procedure A. Purification by flash chromatography on silica gel using CH2Cl2/MeOH/NH4OH (94:5:1) afforded 5-((2′R,6′S)-3,3″-dimethyl-3′,4′,5′,6′-tetrahydro-2′H-[2,2′;6′,2″]terpyridin-1′-yl)-pentanoic acid ethyl ester (417 mg, 90%) as a yellow oil. 1H NMR (CDCl3) δ 0.75-0.94 (m, 3H), 1.17 (t, 3H, J=7.1 Hz), 1.55-2.01 (m 8H), 2.20-2.35 (m, 6H), 2.47 (s, 6H), 3.99 (q, 2H, J=7.2 Hz), 7.05-7.09 (m, 2H), 7.43 (d, 2H, J=7.6 Hz), 8.46 (bs, 2H).

reactant | (2′R,6′S)-3,3″-dimethyl-1′,2′,3′,4′,5′,6′-hexahydro-[2,2′;6′,2″]terpyridine | 1.12 mmol, 306 mg | CC=1C(=NC=CC1)[C@@H]1N[C@@H](CCC1)C1=NC=CC=C1C | C17H21N3
reactant | 5-bromo-pentanoic acid ethyl ester | 1.12 mmol, 263 mg | C(C)OC(CCCCBr)=O | C7H13BrO2
reactant | DIPEA | 1.49 mmol, 260 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | CH3CN | 12 mL | CC#N | C2H3N
product | 5-((2′R,6′S)-3,3″-dimethyl-3′,4′,5′,6′-tetrahydro-2′H-[2,2′;6′,2″]terpyridin-1′-yl)-pentanoic acid ethyl ester | 417 mg, 90% | C(C)OC(CCCCN1[C@H](CCC[C@H]1C1=NC=CC=C1C)C1=NC=CC=C1C)=O | C24H33N3O2
